Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3]([H:4])([H:5])[C:6][H:7]>>[O:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-8.02050736287
[O:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7],3.86307694756
[H:8].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]=[O:7]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[H:8],-4.10601029546
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])=[C:8][H:9]>>[H:1][C:2][O:3][C:4]=[C:5]1[C:6]([H:7])=[C:8]1[H:9],0.2045682744
[H:1][C:2]([O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12],1.97040203765
[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.57917089574
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.46158465262
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[O:4],1.79288138165
[O:1]=[C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][H:8]>>[C:3]([H:4])#[C:5][C:6][O:7][H:8].[O:1]=[C:2],2.0719394336400003
[H:1][C:2].[O:3]=[C:4]=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.40510374643
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][H:8],3.3194087038
[C:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]#[C:2][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:3],2.8767716398900003
[H:12].[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:13]([H:14])[H:15]>>[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.7968086504400005
[C:4]([H:5])([H:6])[H:7].[O:1]=[C:2]([H:3])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13],-0.6779335442899999
[C:3]([H:4])#[C:5][C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:6][H:7]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11],1.07516957578
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1],6.027590275850001
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])[H:14],4.579920209119999
[O:1]=[C:2][H:3].[O:4]=[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-0.82218211983
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5],4.7495010010800005
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6][H:7]>>[C:1]#[C:2][O:3][C:4][H:5].[C:6][H:7],7.86370797827
[C:5]#[C:6][C:7]([O:8])([H:9])[H:10].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([O:8])([H:9])[H:10],-2.91013861386
[O:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[C:7]=[C:8]([H:9])[H:10].[O:1][O:2][C:3]([H:4])=[C:5][H:6],5.48143845357
[C:1]=[C:2](/[C:3]([H:4])=[C:5]/[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])[C:5][O:6][H:7].[C:8]([H:9])([H:10])[H:11],3.1197583631800003
[H:15].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-4.9523196909500005
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.17998778551
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])=[C:8][H:9]>>[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-4.61927366071
[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1],4.67799244809
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:5],1.57704632637
[C:4]#[C:5][O:6][C:7][C:8]([H:9])[H:10].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]=[C:8]([H:9])[H:10],-7.0732562568
[H:1][C:2]#[C:3][O:4][C:5]#[C:6][C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][O:4][C:5][C:6]#[C:7][H:8].[H:9],3.94432659311
